US06479550B1
To a solution of 1.7 g (3.9 mmol) 2-(3,4-dichloro-phenyl)-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-2-oxo-acetamide in 32 ml THF, 3.0 g (14.0 mmol) N,N-bis(trimethyl-silyl) methanesulfonamide and 0.1 g (0.32 mmol) tetrabutylammonium bromide (TBAF) are added. The mixture is heated at +70° C. for 7 hours. After cooling, the mixture is diluted with ethyl acetate and washed twice with water. After evaporation of the organic phase the residue is purified by flash-chromatography (ethyl acetate 25, hexanes 75) to give 1.31 g (70%) of the 2-(3,4-dichloro-phenyl)-2-methylthioimino-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-acetamide. 1H-NMR (300 MHz, CDCl3): 1.15 (t, 3 H, CH2CH3), 2.22 (m, 2 H, CH2CH3), 2.73 (s, 3 H, SCH3), 2.83 (t, 2 H, CH2CH2) 3.59 (t, 2 H, CH2CH2) 3.89 (s, 3 H, OCH3) 4.73 (m, 2 H, OCH2) 6.78 (m, 2 H, CH arom.), 7.02 (m, 1 H, CH arom.), 7.12 (t, 1 H, NH), 7.30 and 7.58 (m, 3 H, CH arom.).

reactant | 2-(3,4-dichloro-phenyl)-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-2-oxo-acetamide | 3.9 mmol, 1.7 g | ClC=1C=C(C=CC1Cl)C(C(=O)NCCC1=CC(=C(C=C1)OCC#CCC)OC)=O | C22H21Cl2NO4
reactant | N,N-bis(trimethyl-silyl) methanesulfonamide | 14.0 mmol, 3.0 g | C[Si](N(S(=O)(=O)C)[Si](C)(C)C)(C)C | C7H21NO2SSi2
solvent | THF | 32 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 0.32 mmol, 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-dichloro-phenyl)-2-methylthioimino-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-acetamide | 1.31 g, 70% | ClC=1C=C(C=CC1Cl)C(C(=O)NCCC1=CC(=C(C=C1)OCC#CCC)OC)=NSC | C23H24Cl2N2O3S
